US06900225B2
(−)-7-{(7S)-7-Amino-5-azaspiro[2.4]heptan-5-yl}-6-fluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (1):
(−)-7-{(7S)-7-Amino-5-azaspiro[2.4]heptan-5-yl}-6 -fluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid difluoroboron chelate (1.14 g; 2.52 mol) was dissolved in 80% hydrated ethanol (100 ml; prepared by mixing 4 volumes of ethanol and one volume of water). Triethylamine (2 ml) was added thereto and the resultant mixture was subjected to reflux for 3 hours. The solvent was evaporated, and the residue was dissolved by the addition of concentrated HCl (5 ml) and 1N—HCl (5 ml), followed by washing with chloroform (100 ml×3). The pH of the resultant acidic solution was adjusted to 8.0 in an ice bath with aqueous 10N NaOH solution and aqueous 1N NaOH solution, followed by stirring for three hours at room temperature (pH after completion of stirring=7.5). Crystals precipitated were collected by filtration and dried under reduced pressure, to thereby yield 980 mg of a crude form of the title compound as pale yellow crystals. The crystals were purified through recrystallization from a mixture of 28% ammonia water and ethanol, then dried under reduced pressure, yielding 561 mg of the title compound as yellowish white crystals (yield: 55%).

reactant | (−)-7-{(7S)-7-Amino-5-azaspiro[2.4]heptan-5-yl}-6 -fluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid difluoroboron | 2.52 mol, 1.14 g | F[B]F.N[C@@H]1CN(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F
solvent | Triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | (−)-7-{(7S)-7-Amino-5-azaspiro[2.4]heptan-5-yl}-6-fluoro-1-[(1R, 2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 561 mg, yield: 55% | N[C@@H]1CN(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F | C20H21F2N3O4
